US04246181
0.2 mole (4.5 g) 2-methoxy-5-methyl paraphenylenediamine dihydrochloride is dissolved in 200 cc water and the pH thereof is adjusted to 8 by the addition thereto of ammonia. This solution is immediately added to 0.02 mole (2.74 g) 3-amino-2,6-dimethyl phenol, previously dissolved in 200 cc water. To the resulting mixture there are added 60 cc ammonia 22° Be' and 260 cc hydrogen peroxide to make 20 volumes. The mixture is allowed to stand at room temperature for four hours. On filtering the reaction mixture on a suction filter, there are obtained 3.1 g of said indoaniline in crystalline form, which after recrystallization from a mixture of pyridine and water, exhibits a melting point of 145°.

reactant | 2-methoxy-5-methyl paraphenylenediamine dihydrochloride | 0.2 mole, 4.5 g | Cl.Cl.COC1=C(C=C(C(=C1)N)C)N
reactant | ammonia | N | H3N
reactant | 3-amino-2,6-dimethyl phenol | 0.02 mole, 2.74 g | NC=1C(=C(C(=CC1)C)O)C | C8H11NO
reactant | ammonia | 60 cc | N | H3N
reactant | hydrogen peroxide | 260 cc | OO | H2O2
solvent | water | 200 cc | O | H2O
solvent | water | 200 cc | O | H2O
product | indoaniline | 3.1 g | C1=CC(=O)C=CC1=NC2=CC=C(C=C2)N | C12H10N2O
